US08937053B2
Preparation of Prasugrel in Different Solvents
2-(Tert-butyldimethylsilyloxy)-5-(α-cyclopropylformyl-2-fluorobenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (3.0 g) was dissolved in the solvent described in Table 1 to form a solution and the solution was cooled to 0° C. Triethylamine (1.02 g) was then added followed by 4-dimethylaminopyridine (DMAP) (0.02 g). After the reaction mixture was stirred for 10 minutes at the same temperature, acetic anhydride (0.83 g) was added to the solution. The reaction was monitored by Thin Layer Chromatography (TLC) (petroleum ether/ethyl acetate=10/1 or 5/1) until the reaction was completed. After the reaction was completed, cold water was added to the reaction mixture and the mixture was stirred for 15 minutes. It was then cooled to −5° C. and further stirred for 3 hours before collecting the crystal as prasugrel free base. Solid precipitate was collected. The yield of prasugrel was calculated and the results were shown in Table 1.

reactant | 2-(Tert-butyldimethylsilyloxy)-5-(α-cyclopropylformyl-2-fluorobenzyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 3.0 g | [Si](C)(C)(C(C)(C)C)OC1=CC=2CN(CCC2S1)C(C1=C(C=CC=C1)F)C(=O)C1CC1 | C24H32FNO2SSi
reactant | Triethylamine | 1.02 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.83 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | Prasugrel | CC(=O)OC1=CC2=C(S1)CCN(C2)C(C=3C=CC=CC3F)C(=O)C4CC4 | C20H20FNO3S
